US08372874B2
A solution of 192 mg (0.35 mmol) of 2-(1-methanesulfonylpiperidine-4-sulfonyl)-2-methyl-N-{3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-yl}propanamide in DCM/methanol (1/1, 4 mL) is treated with 241 mg (1.40 mmol) of MP-TsOH resin (loading 3.3 mmol/g) at room temperature for 18 h. The resin is removed by filtration and washed alternating with DCM and methanol. The combined filtrates are concentrated under reduced pressure and the resulting residue is purified by column chromatography (silica, eluent: heptanes, 50-100% ethyl acetate) to yield 163 mg of N-{3-[(3S)-3-hydroxy-2-methylbutan-2-yl]-1,2-oxazol-5-yl}-2-(1-methanesulfonylpiperidine-4-sulfonyl)-2-methylpropanamide. Yield 78%; ES-MS: m/z 466 [M+H]

reactant | 2-(1-methanesulfonylpiperidine-4-sulfonyl)-2-methyl-N-{3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-yl}propanamide | 0.35 mmol, 192 mg | CS(=O)(=O)N1CCC(CC1)S(=O)(=O)C(C(=O)NC1=CC(=NO1)C(C)([C@H](C)OC1OCCCC1)C)(C)C | C23H39N3O8S2
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | dioxane water | 4 mL | O1CCOCC1.O
product | N-{3-[(3S)-3-hydroxy-2-methylbutan-2-yl]-1,2-oxazol-5-yl}-2-(1-methanesulfonylpiperidine-4-sulfonyl)-2-methylpropanamide | 163 mg, Yield 78% | O[C@H](C(C)(C)C1=NOC(=C1)NC(C(C)(C)S(=O)(=O)C1CCN(CC1)S(=O)(=O)C)=O)C | C18H31N3O7S2
